US08076359B2
Step 1: 3-Bromo-5-hydroxybenzaldehyde
To a toluene solution (1.6 M) of n-butyl lithium (2.5 M hexane solution, 2.1 eq.) was added at −10° C. n-butyl magnesium chloride (2.0 M THF solution, 0.6 eq.). The reaction mixture was stirred at −10° C. for 30 min before a toluene solution (0.7 M) of 3,5-dibromophenol (1 eq.) was added dropwise at −10° C. over a period of 35 min. After stirring at −10° C. for a further 30 min, the reaction mixture was cooled to −40° C. before DMF (20 eq.) was added dropwise over 20 min. The reaction mixture was then slowly warmed to rt and allowed to stir at rt for 1 h. The reaction was carefully quenched at 0° C. with 10% aqueous HCl and extracted with ether. The combined organic extracts were washed with water and brine and dried over MgSO4. Concentration of the filtrate in vacuo afforded a yellow solid. Recrystallization of the crude product in ether/hexane afforded the title compound as a beige powder.

reactant | n-butyl lithium | 2.5 M, 2.1 eq. | C(CCC)[Li]
reactant | n-butyl magnesium chloride | 2.0 M, 0.6 eq. | C(CCC)[Mg]Cl
reactant | 3,5-dibromophenol | 1 eq. | BrC=1C=C(C=C(C1)Br)O | C6H4Br2O
reactant | DMF | 20 eq. | CN(C)C=O | C3H7NO
solvent | toluene | 0.7 M | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.6 M | C1(=CC=CC=C1)C | C7H8
product | 3-Bromo-5-hydroxybenzaldehyde | BrC=1C=C(C=O)C=C(C1)O | C7H5BrO2
